US09334278B2
To a solution of N-isopropyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (90 mg, 204 μmol) in dichloromethane (2.5 mL) was added trifluoroacetic acid (466 mg, 315 μL, 4.09 mmol) and stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo then the residue obtained was dissolved in dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.45 mL). After 3 h at room temperature, the mixture was concentrated in vacuo then triturated with water and ether. The solid was collected by filtration to give N-isopropyl-2-(5-methylpyridin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (23 mg, 74.1 μmol, 36%) as an off white solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.40 (s, 1H), 9.92 (s, 1H), 8.43 (s, 1H), 8.14 (s, 1H), 8.09 (d, J=3.2, 1 H), 7.86 (s, 1H), 7.85 (d, J=15.1 Hz, 1H), 7.55 (dd, J=8.5, 2.3 Hz, 1H), 4.16 (m, 1H), 2.26 (s, 3H), 1.25 (d, J=6.5, 6 H); MS (EI/CI) m/z: 311.1 [M+H].

reactant | N-isopropyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 204 μmol, 90 mg | C(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(C=C2)C)COCC[Si](C)(C)C | C22H32N6O2Si
reactant | trifluoroacetic acid | 4.09 mmol, 315 μL, 466 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | 1.5 mL | CO | CH4O
reactant | ammonium hydroxide | 0.45 mL | [OH-].[NH4+]
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-isopropyl-2-(5-methylpyridin-2-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 74.1 μmol, 23 mg, 36% | C(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=NC=C(C=C2)C | C16H18N6O
